US07932394B2
(Step 5) Production of methyl 5-[4-(ethylsulfonyl)phenoxy]-3-nitro-2-[(2-pyridinylcarbonyl)amino]benzoate
1.9 g of methyl 5-[4-(ethylsulfonyl)phenoxy]-2-[(2-pyridinylcarbonyl)amino]benzoate was dissolved in 20 ml of trifluoroacetic acid, and 2.2 g of potassium nitrate was added to it and stirred under heat at 80° C. for 2 hours. The reaction liquid was restored to room temperature, trifluoroacetic acid was evaporated away under reduced pressure, the residue was dissolved in chloroform, and aqueous saturated sodium hydrogencarbonate solution was added to it. This was extracted with chloroform, and the organic layer was washed with saturated saline water. After dried, the solvent was evaporated away under reduced pressure, and the residue was purified through silica gel column chromatography (developing solvent: hexane/ethyl acetate=2/1 to 1/1) to obtain 1.86 g of the entitled compound as a yellow solid.

reactant | methyl 5-[4-(ethylsulfonyl)phenoxy]-2-[(2-pyridinylcarbonyl)amino]benzoate | 1.9 g | C(C)S(=O)(=O)C1=CC=C(OC=2C=CC(=C(C(=O)OC)C2)NC(=O)C2=NC=CC=C2)C=C1 | C22H20N2O6S
reactant | potassium nitrate | 2.2 g | [N+](=O)([O-])[O-].[K+]
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | methyl 5-[4-(ethylsulfonyl)phenoxy]-3-nitro-2-[(2-pyridinylcarbonyl)amino]benzoate | 1.86 g | C(C)S(=O)(=O)C1=CC=C(OC=2C=C(C(=C(C(=O)OC)C2)NC(=O)C2=NC=CC=C2)[N+](=O)[O-])C=C1 | C22H19N3O8S
